US05506267
(4-(6,7-bis(palmitoyloxy)-4-thiaheptanoyl-amino)benzenesulfonyl)-glutamic acid
A solution of (4-(6,7-bis(palmitoyloxy)-4-thiaheptanoylamino)benzenesulfonyl)glutamic acid di-t-butyl ester as obtained in Example 19 (213 mg) in trifluoroacetic acid (5 ml) was stirred at room temperature for 4 hours and then concentrated to yield the title compound (190 mg, yield 100% ) as a colorless crystal.

reactant | (4-(6,7-bis(palmitoyloxy)-4-thiaheptanoylamino)benzenesulfonyl)glutamic acid di-t-butyl ester | C(C)(C)(C)OC([C@@H](NS(=O)(=O)C1=CC=C(C=C1)NC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)CCC(=O)OC(C)(C)C)=O | C57H100N2O11S2
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (4-(6,7-bis(palmitoyloxy)-4-thiaheptanoyl-amino)benzenesulfonyl)-glutamic acid | 190 mg, yield 100% | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)NC1=CC=C(C=C1)S(=O)(=O)N[C@@H](CCC(=O)O)C(=O)O)COC(CCCCCCCCCCCCCCC)=O | C49H84N2O11S2
